US07501411B2
Step 2: 3-[(5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-tert-butoxycarbonyl-amino]benzoic acid ethyl ester
A solution of 3-(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)benzoic acid ethyl ester (1.79 g, 4.93 mmol) in DCM (20 mL) is stirred under N2 at rt and BOC2O (1.34 g, 6.16 mmol) and DMAP (0.30 g, 2.46 mmol) are added. Stirring is continued for 2 h, when LCMS indicates complete conversion of the starting material. The mixture is filtered and the filtrate is washed with dilute citric acid (pH 6, 5 mL) and brine (5 mL) and dried over Na2SO4. Evaporation of the solvent affords the title compound as a yellow oil (1.87 g, 4.0 mmol) which is used without further purification.

reactant | 3-(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)benzoic acid ethyl ester | 4.93 mmol, 1.79 g | C(C)OC(C1=CC(=CC=C1)NC=1C=2N(C(=CN1)Br)N=CN2)=O | C14H12BrN5O2
reactant | BOC2O | 6.16 mmol, 1.34 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.46 mmol, 0.30 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-[(5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-tert-butoxycarbonyl-amino]benzoic acid ethyl ester | 4.0 mmol, 1.87 g | C(C)OC(C1=CC(=CC=C1)N(C(=O)OC(C)(C)C)C=1C=2N(C(=CN1)Br)N=CN2)=O | C19H20BrN5O4
